Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ man with a history of diabetes,
smoking, falls, and depression who presented to OSH with 
headache
and was found to have left temporal IPH. History is obtained 
from
patient, though he admits to feeling confused and unable to
remember his history in detail. 

He has a history of intermittent vertigo and frequent falls over
the last "few" years. The episodes of vertigo strike at various
times once every few days, and he cannot recall any particular
activity that they are associated with. He has been worked-up
with no diagnosis as-yet. He has an implanted cardiac rhythm
monitor, which he says has been there for years, but has shown
his heart is normal. He does not remember whether he has had a
brain scan, but says "I think so, right?". Workup for the 
vertigo
did lead to his diagnosis of diabetes, for which is on oral
antihyperglycemics. He says he falls very frequently as a result
of this vertigo, often at night when he gets up to go to the
bathroom. 

He woke up this morning with a severe ___ left frontal and
parietal headache, as well as back pain. He does not remember
falling last night, but says "I probably must have. I fall every
night." He vaguely remembers crawling back to bed. Upon waking,
he also felt confused, so he called his mother and she sent his
nephew over to his house. His nephew noticed his confusion and
took him to ___ where a head CT was done and 
showed
left temporal IPH. He was transferred to ___ for further
management. 
 
Past Medical History:
- Diabetes
- Depression
- Falls
 
Social History:
___
Family History:
Father with fatal MI at ___. 
Sisters x2 with DM. 
No history of seizures, strokes, aneurysms, or neurodegenerative
diseases. 
 
Physical Exam:
ADMISSION EXAM:

General:  NAD
HEENT: No oropharyngeal lesions, neck supple. *4cm triangular
contusion on left temple*
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
vague
history. Able to name ___ backward without difficulty, but
significant difficulty with ___ - was obviously going through
year forward for every iteration, needed to be reminded which
month he was on twice. Speech is fluent but with short 
sentences,
intact repetition to long complex sentences, and intact verbal
comprehension. Naming intact to high-frequency words, but not
medium and low-frequency (could not name knuckles or 
fingernail).
No paraphasias.  No dysarthria. Normal prosody. Able to register
3 objects but could not recall any at 5 minutes. Able to recall
with category queues. No apraxia  (able to demonstrate tool use
bilaterally). Able to mirror complex hand gestures bilaterally.
No evidence of hemineglect. No left-right confusion. Able to
follow both midline and appendicular commands.

- Cranial Nerves: PERRL 4->3 sluggish. VF full to finger 
movement
in both eyes. EOMI, no nystagmus. V1-V3 without deficits to 
light
touch bilaterally. No facial movement asymmetry. Hearing intact
to finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

- Reflexes: 
   [Bic] [Tri] [___] [Quad] [___]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1 
Plantar response withdrawal bilaterally

- Sensory: No deficits to light touch bilaterally.  No 
extinction
to DSS. Able to accurately repeat which part of body had just
been touched in face and all extremities bilaterally. 

- Coordination: No dysmetria with finger to nose testing
bilaterally, able to continue accurately with eyes closed.
Heel-knee-shin intact bilaterally. 

- Gait: Romberg positive immediately upon eye closure, negative
on repeated attempt but says it took significant effort to
maintain balance. Limited gait exam at bedside in ED, but normal
initiation, narrow base, normal stride length and arm swing. 

DISCHARGE EXAM:

General: Awake, cooperative, NAD.
 HEENT: no scleral icterus noted, MMM, no lesions noted in
oropharynx. ~3x3 cm ecchymosis noted in left temporal area
 Neck: Supple,  No nuchal rigidity
 Pulmonary: Lungs CTAB, no w/r/r
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
 Extremities: No ___ edema. ecchymoses of varying age noted over
some of the bony prominences.
 Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history but
with some difficulty. Attention impaired. Able to name days of
week backwards, but not able to name months of year backward.
Language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. Pt was only 
able
to name high ___ objects (like thumb). difficult naming low 
___
objects. Able to read without difficulty. Speech
was not dysarthric. Able to follow both midline and appendicular
commands.  There was no evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  R pupil larger than left. ~1mm difference.
EOMI. Normal saccades. VFF to confrontation. no skew. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: Patchy diminished pinprick, cold sensation in BLE, not
in dermatomal distribution. Some diminished pinprick in BUE, not
in any specific distribution. Vibration >12 seconds throughout.
Proprioception intact. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
 Plantar response was flexor bilaterally.
crossed adductor present.
no pectoral reflex

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. negative romberg

-Gait: wide based, cautious steps

 
Pertinent Results:
___ 06:05AM BLOOD WBC-9.4 RBC-5.17 Hgb-15.7 Hct-47.1 MCV-91 
MCH-30.4 MCHC-33.3 RDW-13.4 RDWSD-45.9 Plt ___
___ 06:05AM BLOOD Glucose-198* UreaN-17 Creat-0.9 Na-143 
K-4.5 Cl-101 HCO3-25 AnGap-22*
___ 06:05AM BLOOD Calcium-10.0 Phos-3.8 Mg-2.2
___ 01:20PM BLOOD VitB12-395 Folate-11
___ 07:08PM BLOOD %HbA1c-6.6* eAG-143*
___ 05:09PM BLOOD Triglyc-193* HDL-50 CHOL/HD-4.5 
LDLcalc-137*
___ 01:20PM BLOOD TSH-3.1
___ 05:09PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of diabetes,
smoking, intermittent vertigo, and frequent falls of unknown
etiology who presented with headache and was found to have a 
left
temporal IPH. His exam is significant for impaired recall and
naming, - but no visual field cut, sensorimotor deficits, or
cerebellar signs. He has risk factors of diabetes and smoking,
but the location and heterogenous appearance of his hemorrhage 
is
concerning for tumor or vascular malformation with repeated
bleeds. Thus a MRI Brain w/ w/o contrast was performed. Did not 
start statin given bleed. Patient has ILR, reveal linq device, 
which was determined to be MRI compatible, and thus able to 
proceed with MRI with device still implanted. Etiology could 
possibly be trauma given his history of repeated falls and 
ecchymosis on left temporal area, location of IPH not classic 
location for bleed from trauma but still possible. MRI brain was 
not suggestive of underlying mass or AVM. A MRI brain w/ w/o 
contrast can be performed in ___ weeks after resolution of 
bleed to confirm that no mass is present.
No findings on c-spine MRI were seen to explain recurrent falls. 
Patient's short term memory impairment likely explained due to 
IPH mass effect on areas of papez circuit in L temporal region. 
Physical therapy saw the patient and recommended balance 
training with outpatient ___. Etiology of recurrent falls was 
felt to be due to orthostatic hypotension. Patient has positive 
orthostatic vitals on admission, was started on midodrine 5 mg 
BID, which should be continued on discharge, with improvement in 
orthostatic vitals. TSH 3.0. RPR negative. B12 395, Folate 11, 
Lyme negative, SPEP negative, MMA pending, UPEP pending at time 
of discharge. Outpatient tilt table test was arranged. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PARoxetine 20 mg PO DAILY 
2. Mirtazapine 30 mg PO QHS 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. ALPRAZolam 1 mg PO BID:PRN anxiety 
5. HydrOXYzine 10 mg PO Q6H:PRN anxiety 
6. LamoTRIgine 25 mg PO BID 

 
Discharge Medications:
1.  Midodrine 5 mg PO BID 
RX *midodrine 5 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*3 
2.  Nicotine Patch 14 mg TD DAILY:PRN Nicotine craving 
RX *nicotine 14 mg/24 hour  daily Disp #*30 Patch Refills:*3 
3.  HydrOXYzine 10 mg PO Q6H:PRN anxiety  
4.  LamoTRIgine 25 mg PO BID  
5.  MetFORMIN (Glucophage) 1000 mg PO BID  
6.  Mirtazapine 30 mg PO QHS  
7.  PARoxetine 20 mg PO DAILY  
8. HELD- ALPRAZolam 1 mg PO BID:PRN anxiety  This medication was 
held. Do not restart ALPRAZolam until you see your PCP as this 
may be contributing to your falls
9.Outpatient Physical Therapy
For Balance training
10.soft cervical collar
when sleeping

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L temporal intraparenchymal hemorrhage
diabetes
orthostatic hypotension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro: nonfocal

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after you fell and developed a 
headache. You were found to have a bleed in your brain around 
the left temporal lobe. Your MRI did not show any masses 
underneath the bleed at this time. You may have had the bleed 
because of trauma from falling. 

You were also worked up for why you were falling. Your 
orthostatic vital signs came back positive, suggesting that when 
you stand up, your blood pressure drops, which can make you 
lightheaded and pass out. We started you on a medication called 
midodrine. Please take this twice per day an remember to stay 
hydrated. You will be scheduled for an outpatient tilt table 
test to further explore this diagnosis. Your diabetes may be 
contributing to this process. 

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___